US07189754B2
Methyl (2S,4EZ)-1-[(2′-chloro[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxylate
Following the general method as outlined in Example 11, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-chloro[1,1′-biphenyl]-4-carboxylic acid, and methanol, the title compound isolated as a mixture of two isomers in 92.3% purity by HPLC.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-chloro[1,1′-biphenyl]-4-carboxylic acid | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C13H9ClO2
reactant | methanol | CO | CH4O
product | Methyl (2S,4EZ)-1-[(2′-chloro[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxylate | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)OC | C20H19ClN2O4
